US07772378B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(thiophen-3-yl-ethynyl)-benzyl]-benzene
To a solution of 0.52 g 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(thiophen-3-yl-ethynyl)-benzyl]-benzene in 9 mL methanol is added 0.85 mL of 4 M potassium hydroxide solution. The solution is stirred at ambient temperature for one hour and then neutralised with 1 M hydrochloric acid. After the methanol is evaporated the residue is combined with brine and the resultant mixture is extracted with ethyl acetate. The organic extracts are dried over sodium sulfate, and the solvent is removed. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0→5:1).

reactant | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(thiophen-3-yl-ethynyl)-benzyl]-benzene | 0.52 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)C#CC1=CSC=C1 | C33H31ClO10S
reactant | potassium hydroxide | 4 M, 0.85 mL | [OH-].[K+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 9 mL | CO | CH4O
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(thiophen-3-yl-ethynyl)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#CC1=CSC=C1 | C25H23ClO6S
